US06420555B1
Preparation 1: 2-(3-Chlorophenyl)-N-methoxy-N-methyl-acetamide
A solution of 3-chlorophenylacetic acid (5.00 g, 29.3 mmol), 1-(3-dimethyl-aminopropyl)-3-ethylcarbodiimide HCl (6.18 9, 32.2 mmol), and 1-hydroxybenzotriazole (HOBt; 4.00 9, 29.3 mmol) in dichloromethane (DCM; 40 mL) was stirred at room temperature for about 10 minutes. The solution was cooled to about 0° C. To it were added N,O-dimethylhydroxylamine HCl (2.86 g, 29.0 mmol) and diisopropylethylamine (DIEA; 3.80 g, 29.3 mmol). The reaction mixture was warmed to room temperature and stirred for about 5 hours. The solution was diluted with 100 mL of DCM and washed with saturated NaHCO3 aqueous solution (2 times), iN HCl aqueous solution (2 times) and brine (2 times), dried over anhydrous MgSO4, filtered and concentrated in vacuo. The liquid obtained was purified by column chromatography on silica eluting with EtOAc/hexane 1:1. The title compound was obtained as colorless liquid. Yield: 5.60 g, 89%. Rf=0.44 (silica, EtOAc/hexane 1:1). 1H NMR (300 MHz, CDCl3) 7.18-7.34 (m, 4H), 3.76 (S, 2H), 3.66 (S, 3H), 3.22 (S, 3H).

reactant | 3-chlorophenylacetic acid | 29.3 mmol, 5.00 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | 1-hydroxybenzotriazole | 29.3 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,O-dimethylhydroxylamine HCl | 29.0 mmol, 2.86 g | Cl.CNOC
reactant | diisopropylethylamine | 29.3 mmol, 3.80 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | DCM | 100 mL | ClCCl | CH2Cl2
product | 2-(3-Chlorophenyl)-N-methoxy-N-methyl-acetamide | ClC=1C=C(C=CC1)CC(=O)N(C)OC | C10H12ClNO2
